US07265225B2
D. Preparation of 1-[2-(6-bromo-quinolin-4-yl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one
Stir a mixture of 2-(6-bromo-quinolin-4-yl)-1-(6-methyl-pyridin-2-yl)-ethanone (38.5 g, 113 mmol) and 1-aminopyrrolidinone hydrochloride (20 g, 147 mmol) in 115 mL pyridine at ambient temperature for 10 hours. Add about 50 g 4 Å unactivated sieves. Continue stirring an additional 13 h and add 10–15 g silica and filter the mixture through a 50 g silica plug. Elute the silica plug with 3 L ethyl acetate. Combine the filtrates and concentrate in vacuo. Collect the hydrazone precipitate by filtration and suction dry to yield 33.3 g (69.7%) of the desired subtitled intermediate as an off-white solid.

reactant | 2-(6-bromo-quinolin-4-yl)-1-(6-methyl-pyridin-2-yl)-ethanone | 113 mmol, 38.5 g | BrC=1C=C2C(=CC=NC2=CC1)CC(=O)C1=NC(=CC=C1)C | C17H13BrN2O
reactant | 1-aminopyrrolidinone hydrochloride | 147 mmol, 20 g | Cl.NN1C(CCC1)=O
solvent | pyridine | 115 mL | N1=CC=CC=C1 | C5H5N
product | 1-[2-(6-bromo-quinolin-4-yl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one | 33.3 g, 69.7% | BrC=1C=C2C(=CC=NC2=CC1)CC(C1=NC(=CC=C1)C)=NN1C(CCC1)=O | C21H19BrN4O
